US04753953
7-(3-Aminomethyl-4-methyl-1-pyrrolidinyl)-1-ethyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
A mixture of 1-ethyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid (0.5 g), anhydrous acetonitrile (5 ml), 3-aminomethyl-4-methylpyrrolidine (0.22 g) and DBU (0.28 g) was refluxed for an hour and then stirred at room temperature for 3 hours. The resulting precipitate was collected by filtration and washed with ether to give the title compound (0.39 g) as pale yellow powder, mp 222°-224° C.

reactant | 1-ethyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 0.5 g | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C12H8F3NO3
reactant | 3-aminomethyl-4-methylpyrrolidine | 0.22 g | NCC1CNCC1C | C6H14N2
reactant | DBU | 0.28 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 7-(3-Aminomethyl-4-methyl-1-pyrrolidinyl)-1-ethyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 0.39 g | NCC1CN(CC1C)C1=C(C=C2C(C(=CN(C2=C1F)CC)C(=O)O)=O)F | C18H21F2N3O3
